US07253286B2
1-{4-[6-(4-Benzyloxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-2-chlorophenyl}-3-cyclopropylurea
After dissolving 38 mg of 1-{4-[6-(4-benzyloxyphenyl)-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-2-chlorophenyl}-3-cyclopropylurea in 0.8 ml of tetrahydrofuran, 0.2 ml of tetrabutylammonium fluoride (1 M tetrahydrofuran solution) was added dropwise and the mixture was refluxed for 2 hours. It was then returned to room temperature, water was added, and liquid separation and extraction were performed with ethyl acetate and tetrahydrofuran. The organic layer was washed with water and saturated brine, concentrated and dried under reduced pressure to obtain 26 mg of the title compound.

reactant | 1-{4-[6-(4-benzyloxyphenyl)-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-2-chlorophenyl}-3-cyclopropylurea | 38 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC2=C(N=CN=C2OC2=CC(=C(C=C2)NC(=O)NC2CC2)Cl)N1COCC[Si](C)(C)C | C35H38ClN5O4Si
reactant | water | O | H2O
solvent | tetrahydrofuran | 0.8 ml | O1CCCC1 | C4H8O
solvent | tetrabutylammonium fluoride | 1 M, 0.2 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-{4-[6-(4-Benzyloxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-2-chlorophenyl}-3-cyclopropylurea | 26 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC2=C(N=CN=C2OC2=CC(=C(C=C2)NC(=O)NC2CC2)Cl)N1 | C29H24ClN5O3
